US07408071B2
Step D (1): To a sealed tube flushed with nitrogen was added L-proline (3.684 g, 32.0 mmol), potassium carbonate (6.634 g, 48.0 mmol), copper (I) iodide (609 mg, 3.2 mmol), iodobenzene (3.58 mL, 32.0 mmol) and N,N-dimethylacetamide. The mixture was heated at 90° C. for 48 hours, then cooled to room temperature. Water was added, and the pH adjusted to <3 with concentrated HCl. The aqueous phase was extracted 4 times with ethyl acetate. The combined organic layers were washed with brine, dried over magnesium sulfate, filtered and concentrated in vacuo. Silica gel chromatography (0 to 100% EtOAc/hexane gradient) afforded N-phenylproline which was used directly in the next step. LC-MS (M+H)+=192. LC-MS RT (column 1)=2.230/4.00. 1H NMR (500 MHz, CDCl3): δ 10.574 (br s, 1H), 7.29-7.25 (m, 2H), 6.785 (t, J=7.5 Hz, 1H), 6.613 (d, J=8.0 Hz, 2H), 4.25 (dd, J=2.4, 8.8 Hz, 1H), 3.60 (dt, J=2.8, 8.3 Hz, 1H), 3.36 (m, 1H), 2.38-2.01 (m, 4H).

reactant | L-proline | 32.0 mmol, 3.684 g | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | potassium carbonate | 48.0 mmol, 6.634 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodobenzene | 32.0 mmol, 3.58 mL | IC1=CC=CC=C1 | C6H5I
reactant | HCl | Cl | ClH
catalyst | copper (I) iodide | 3.2 mmol, 609 mg | [Cu]I
solvent | Water | O | H2O
solvent | N,N-dimethylacetamide | CN(C(C)=O)C | C4H9NO
product | N-phenylproline | C1(=CC=CC=C1)N1[C@H](C(=O)O)CCC1 | C11H13NO2
